US07829572B2
To a solution of (5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazol-4-yl)methanol (86 mg, 0.41 mmol) in methylene chloride was added manganese dioxide (359 mg, 4.13 mmol). The reaction was warmed up to reflux for 3 h. The crude mixture was purified with silica gel chromatography to give an oil of 5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazole-4-carbaldehyde (17 mg). 1H NMR (400 MHz, CDCl3) δ 9.72 (s, 1H), 8.87 (s, 1H), 5.98 (s, 2H), 2.05 (s, 6H). MS m/z 207.2 (M+H)+.

reactant | (5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazol-4-yl)methanol | 0.41 mmol, 86 mg | CC=1N(C(=CC1)C)C1=C(N=CS1)CO | C10H12N2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 4.13 mmol, 359 mg | [O-2].[O-2].[Mn+4]
product | 5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazole-4-carbaldehyde | 17 mg | CC=1N(C(=CC1)C)C1=C(N=CS1)C=O | C10H10N2OS
